US07981883B2
6.a. Synthesis of 1-chloro-1-hydroxyiminomethylbenzene
N-chlorosuccinimide (4.63 g, 34.7 mmol) was added to a solution of benzaldehyde oxime (3.5 g, 28.9 mmol) in DMF (30 ml) at RT, causing the temperature to rise briefly to 50° C. The reaction mixture was cooled in an ice bath, stirred for 3 h at RT, mixed with water (100 ml) while being pooled with ice and extracted with ether (3×100 ml). The combined organic phases were washed with water (150 ml) and sat. aq. NaCl solution (150 ml), dried and the solvent was removed under vacuum. The desired product 1-chloro-1-hydroxyiminomethylbenzene was obtained as a yellowish solid (4.28 g).

reactant | N-chlorosuccinimide | 34.7 mmol, 4.63 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzaldehyde oxime | 28.9 mmol, 3.5 g | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | water | 100 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-chloro-1-hydroxyiminomethylbenzene | ClC1(CC=CC=C1)C=NO | C7H8ClNO
